US07790882B2
Trifluoromethanesulfonic acid (R)-1-[4-(1-phenylethoxy)-phthalazin-1-yl]-naphthalen-2-yl ester
To a solution of (R)-1-[4-(1-phenylethoxy)-phthalazin-1-yl]-naphthalen-2-ol (0.91 g, 2.3 mmol) in pyridine (0.56 ml, 6.9 mmol) and dichloromethane (10 ml) was added dropwise trifluoromethanesulfonic anhydride (0.41 ml, 2.4 mmol) at 0° C.

reactant | (R)-1-[4-(1-phenylethoxy)-phthalazin-1-yl]-naphthalen-2-ol | 2.3 mmol, 0.91 g | C1(=CC=CC=C1)[C@@H](C)OC1=NN=C(C2=CC=CC=C12)C1=C(C=CC2=CC=CC=C12)O | C26H20N2O2
reactant | pyridine | 6.9 mmol, 0.56 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 2.4 mmol, 0.41 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Trifluoromethanesulfonic acid (R)-1-[4-(1-phenylethoxy)-phthalazin-1-yl]-naphthalen-2-yl ester | C1(=CC=CC=C1)[C@@H](C)OC1=NN=C(C2=CC=CC=C12)C1=C(C=CC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F | C27H19F3N2O4S
